### PR TITLE
feat(ModularForms/Derivative): prove D_slash for derivative of slashed functions

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary
- Prove how the normalized derivative D interacts with the slash action
- Key formula: D (F ∣[k] γ) = (D F) ∣[k+2] γ - k(2πi)⁻¹(c/(cz+d))(F ∣[k] γ)

## Relation to other work
- Extracted from #248 (q-expansion-Eisenstein) to enable separate review/golfing
- **#248 depends on this PR** — the `serre_D_slash_equivariant` proof uses `D_slash`
- Addresses partial progress on Issue #86 (Serre derivative equivariance)
- D_slash is the key technical result for Ramanujan's differential equations
- ~~No longer builds on #250 (generalizes serre_D weights from `ℤ` to `ℂ`)~~

## What's included
- 6 helper lemmas for computing derivatives of Möbius components:
  - `deriv_denom`: d/dz[cz + d] = c
  - `deriv_num`: d/dz[az + b] = a
  - `differentiableAt_denom`: differentiability of cz+d
  - `differentiableAt_num`: differentiability of az+b
  - `deriv_moebius`: d/dz[(az+b)/(cz+d)] = 1/(cz+d)² (uses det=1)
  - `deriv_denom_zpow`: d/dz[(cz+d)^(-k)] = -k·c·(cz+d)^(-k-1)
- Main `D_slash` lemma

## Golfing completed
- `deriv_denom` and `deriv_num`: Reduced from ~15 lines each to 2 lines using `simp only [denom/num]` + `rw` approach
- `deriv_moebius`: Reduced from ~44 lines to ~33 lines by removing explicit coercion lemmas
- `deriv_denom_zpow`: Reduced from ~17 lines to ~8 lines using `:=` syntax and `rfl`
- `D_slash`: Removed unused locals (hc, hD_eq, hslash_k, hslash_k2), fixed long lines
- Consolidated 6 `open ModularGroup in` statements into single `section DSlashHelpers`
- Total: ~51 lines removed

## Merge Order

This PR is part of a chain for q-expansion and Ramanujan identities:

1. **#265**: cauchy-boundedness (independent, can merge first)
2. **#251**: D-slash lemma ← (this PR, independent of #265)
3. **#266**: serre-derivative-asymptotics (merge after both #265 and #251)
4. **#267**: core-ramanujan
5. **#268**: q-expansion-identities
6. **#248**: q-expansion-Eisenstein (MLDE)

**Note:** #265 and #251 are independent and can merge in either order. #266 requires both to be merged first.

## Test plan
- [x] `lake build SpherePacking.ModularForms.Derivative` passes
- [x] Linting passes (no lines over 100 chars)

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Comment by cameronfreer** [comment]
awaiting-review

File: SpherePacking/ModularForms/Derivative.lean [hunk 1]
```diff
@@ -171,39 +166,279 @@ noncomputable def serre_D (k : ℂ) : (ℍ → ℂ) → (ℍ → ℂ) :=
...
+
+These micro-lemmas compute derivatives of the components in the slash action formula.
+-/
+
+section DSlashHelpers
+
+open ModularGroup
+
+/-- Derivative of the denominator function: d/dz[cz + d] = c. -/
+lemma deriv_denom (γ : SL(2, ℤ)) (z : ℂ) :
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/Derivative.lean]: It might be work setting `(γ : SL(2, ℤ)) (z : ℂ)` as variables at the start of the section since its used everytime I think.

File: SpherePacking/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -171,39 +166,279 @@ noncomputable def serre_D (k : ℂ) : (ℍ → ℂ) → (ℍ → ℂ) :=
...
+
+/-- Differentiability of num. -/
+lemma differentiableAt_num (γ : SL(2, ℤ)) (z : ℂ) :
+    DifferentiableAt ℂ (fun w => num γ w) z := by
+  simp only [num]
+  fun_prop
+
+/-- Derivative of the Möbius transformation: d/dz[(az+b)/(cz+d)] = 1/(cz+d)².
+Uses det(γ) = 1: a(cz+d) - c(az+b) = ad - bc = 1. -/
+lemma deriv_moebius (γ : SL(2, ℤ)) (z : ℂ) (hz : denom γ z ≠ 0) :
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/Derivative.lean]: Do we need the extra generality of z being a complex number and not just something in the upper half plane? (I guess not just here but also in the other lemmas?)  If not we could remove the hz hypothesis and also I expect the proof becomes nicer, for example instead of: 
```
  simp only [num, denom] at *

  simp only [show (((γ : GL (Fin 2) ℝ) : Matrix (Fin 2) (Fin 2) ℝ) 0 0 : ℂ) =
      ((γ : Matrix (Fin 2) (Fin 2) ℤ) 0 0 : ℂ) by simp,
    show (((γ : GL (Fin 2) ℝ) : Matrix (Fin 2) (Fin 2) ℝ) 0 1 : ℂ) =
      ((γ : Matrix (Fin 2) (Fin 2) ℤ) 0 1 : ℂ) by simp,
    show (((γ : GL (Fin 2) ℝ) : Matrix (Fin 2) (Fin 2) ℝ) 1 0 : ℂ) =
      ((γ : Matrix (Fin 2) (Fin 2) ℤ) 1 0 : ℂ) by simp,
    show (((γ : GL (Fin 2) ℝ) : Matrix (Fin 2) (Fin 2) ℝ) 1 1 : ℂ) =
      ((γ : Matrix (Fin 2) (Fin 2) ℤ) 1 1 : ℂ) by simp]
```
you can use: 
```
  simp only [denom_apply, Fin.isValue, ne_eq, num, Matrix.SpecialLinearGroup.coe_GL_coe_matrix,
    Matrix.SpecialLinearGroup.map_apply_coe, RingHom.mapMatrix_apply, Int.coe_castRingHom,
    Matrix.map_apply, ofReal_intCast, differentiableAt_add_const_iff, deriv_add_const',
    one_div] at *
```
and I expect more golfing can be done.

File: SpherePacking/ModularForms/Derivative.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks, see 0856d3030adb7f9a529356c16a9e02c72726c81f

File: SpherePacking/ModularForms/Derivative.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks, see 167b4db8bf51006b33be810c832988072a90a5df for restricting z to ℍ and using `denom_apply` `simp` lemmas.

Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: and see 6ca6c6b33b1bb62d5f60503249320bd0d6481173 for more golfing of the `deriv_moebius` proof

**Comment by cameronfreer** [comment]
> This PR merged #250 but not essentially depends on it right? Then it might be better to merge #250 first.

Yes, I think that's right. I merged #250 into it, thinking it might make use of the changes, but it doesn't -- `D_slash` uses integer weights and normalized `D`, not complex weights or `serre_D`. 

If you'd prefer, I could rebase it to the current `main`, or if #250 will merge soon, maybe it's best to just wait for that first?

File: SpherePacking/ModularForms/Derivative.lean [hunk 3]
```diff
@@ -330,39 +325,269 @@ noncomputable def serre_D (k : ℂ) : (ℍ → ℂ) → (ℍ → ℂ) :=
 /--
 Basic properties of Serre derivative: linearity, Leibniz rule, etc.
 -/
-theorem serre_D_add (k : ℤ) (F G : ℍ → ℂ) (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F)
+theorem serre_D_add (k : ℂ) (F G : ℍ → ℂ) (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F)
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: Note that I discarded #250 and changed the weights back to ℤ.

Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks, I've rebased this on what #193 added to `main`.

File: SpherePacking/ModularForms/Derivative.lean [hunk 4]
```diff
@@ -370,6 +370,228 @@ theorem serre_D_differentiable {F : ℍ → ℂ} {k : ℂ}
...
+  have hdiff_denom_zpow : DifferentiableAt ℂ (fun w => (denom γ w) ^ (-k)) z := by
+    apply DifferentiableAt.zpow (differentiableAt_denom γ z) (Or.inl (hdenom_ne z hz_im_pos))
+  -- For the F ∘ (num/denom) term, we need differentiability of the Möbius and F
+  have hdiff_mobius : DifferentiableAt ℂ (fun w => num γ w / denom γ w) z := by
+    exact (differentiableAt_num γ z).div (differentiableAt_denom γ z) (hdenom_ne z hz_im_pos)
+  -- The composition (F ∘ ofComplex) ∘ mobius is differentiable at z
+  -- because mobius(z) is in ℍ and F is MDifferentiable
+  have hmobius_in_H : (num γ z / denom γ z).im > 0 := by
+    -- γ • z is in ℍ, and (γ • z : ℂ) = num/denom
+    have hdet_pos : (0 : ℝ) < ((γ : GL (Fin 2) ℝ).det).val := by simp
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: `hdet_pos` is defined multiple times, so we can move it in front of the proof. I think there are some similar duplicates that can be golfed further, such as `hmobius_in_H` (which is same as `hmob_im`). There could be more that I missed.

File: SpherePacking/ModularForms/Derivative.lean [hunk 5]
```diff
@@ -370,6 +370,228 @@ theorem serre_D_differentiable {F : ℍ → ℂ} {k : ℂ}
...
+  --
+  -- Setup differentiability for product rule
+  have hdenom_ne : ∀ w : ℂ, w.im > 0 → denom γ w ≠ 0 := fun w hw =>
+    UpperHalfPlane.denom_ne_zero γ ⟨w, hw⟩
+  have hz_im_pos : (z : ℂ).im > 0 := z.im_pos
+  have hdiff_denom_zpow : DifferentiableAt ℂ (fun w => (denom γ w) ^ (-k)) z := by
+    apply DifferentiableAt.zpow (differentiableAt_denom γ z) (Or.inl (hdenom_ne z hz_im_pos))
+  -- For the F ∘ (num/denom) term, we need differentiability of the Möbius and F
+  have hdiff_mobius : DifferentiableAt ℂ (fun w => num γ w / denom γ w) z := by
+    exact (differentiableAt_num γ z).div (differentiableAt_denom γ z) (hdenom_ne z hz_im_pos)
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
  have hdiff_denom_zpow : DifferentiableAt ℂ (fun w => (denom γ w) ^ (-k)) z := by
    apply DifferentiableAt.zpow (differentiableAt_denom γ z) (Or.inl (hdenom_ne z z.im_pos))
  -- For the F ∘ (num/denom) term, we need differentiability of the Möbius and F
  have hdiff_mobius : DifferentiableAt ℂ (fun w => num γ w / denom γ w) z := by
    exact (differentiableAt_num γ z).div (differentiableAt_denom γ z) (hdenom_ne z z.im_pos)
```
or even `z.2` if you prefer shorter one?

File: SpherePacking/ModularForms/Derivative.lean (hunk 4 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks -- see 9efd1ed7c32ea5639fc49e39729b541b45a0ea2b.

Now `hdet_pos` is at the top of the proof (shared by all three usages) and also `hmobius_in_H` is simplified to 2 lines using the shared `hdet_pos`.

I didn't merge the `hmob_im` inside the filter_upwards block with `hmobius_in_H` since they operate on different variables (w vs. z), but they now have similar structure -- if you see a better way to do this, I'm happy to change it.

File: SpherePacking/ModularForms/Derivative.lean (hunk 5 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks; see 9efd1ed7c32ea5639fc49e39729b541b45a0ea2b, which uses `z.im_pos` directly (and removes `hz_im_pos`). (Also switched to `:=` syntax instead of `by exact`.)

Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Also golfed a bit more
